US07723333B2
3-(4-Aminopiperidin-1-yl)propanenitrile
TFA (1.21 g, 10.62 mmol) was added to a solution of tert-butyl [1-(2-cyanoethyl)piperidin-4-yl]carbamate (0.27 g, 1.06 mmol) in DCM (11 mL), and the mixture was stirred at rt for 2 h. The mixture was evaporated and the product was used without any further purification.

reactant | TFA | 10.62 mmol, 1.21 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl [1-(2-cyanoethyl)piperidin-4-yl]carbamate | 1.06 mmol, 0.27 g | C(#N)CCN1CCC(CC1)NC(OC(C)(C)C)=O | C13H23N3O2
solvent | DCM | 11 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Aminopiperidin-1-yl)propanenitrile | NC1CCN(CC1)CCC#N | C8H15N3
